US07319104B2
2-[4-(2-{1,3-Benzothiazol-2-yl[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly, condensation of ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate with 2-chlorobenzothiazole, followed by standard hydrolysis with NaOH afforded the title compound.

reactant | ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)CCNCC1=CC=C(C=C1)C(F)(F)F | C22H26F3NO3
reactant | 2-chlorobenzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | NaOH | [OH-].[Na+]
product | 2-[4-(2-{1,3-Benzothiazol-2-yl[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | S1C(=NC2=C1C=CC=C2)N(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)CC2=CC=C(C=C2)C(F)(F)F | C27H25F3N2O3S
